US06423689B1
[S-(R*,R*)]-3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(morpholine-4-sulfonylamino)-pentanoylamino]-propionic acid tert-butyl ester
A solution of the product from Example AI ([S-(R*,R*)]-2-(2-amino-4-methyl-pentanoylamino)-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester) (397 mg, 0.90 mmol), morpholine-4-sulphonyl chloride (334 mg, 1.8 mmol, prepared by the method of von Geldem, et al., J. Med. Chem., 1996;39:968-981), N,N-diisopropylethyl-amine (246 mg, 1.9 mmol), and DMAP (25 mg) in benzene (5 mL) was heated under reflux for 3 hours, then concentrated in vacuo and the residue dissolved in ethyl acetate, and washed with saturated NaHCO3 solution, water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The amber oil thus obtained was purified via flash chromatography (silica gel, 35% EtOAc/Hexane) to give 346 mg (65%) of the title compound as a yellow foam, mp=54-57° C.

reactant | 2-(2-amino-4-methyl-pentanoylamino)-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)N)=O)=O | C26H36N2O4
reactant | morpholine-4-sulphonyl chloride | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
reactant | N,N-diisopropylethyl-amine | 1.9 mmol, 246 mg | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMAP | 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | 3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(morpholine-4-sulfonylamino)-pentanoylamino]-propionic acid tert-butyl ester | 346 mg, 65% | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)NS(=O)(=O)N1CCOCC1)=O)=O | C30H43N3O7S
